US04427677
A solution of chlorine (3.2 g) in acetic acid (44 ml) was added dropwise to a solution of 2-(2-propynyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)(10 g) in chloroform (250 ml) at 0° C. and the mixture was stirred for 30 minutes at the same temperature. The resulting solution was added to a saturated aqueous sodium bicarbonate and the mixture was adjusted to pH 7.5 with 10% aqueous sodium hydroxide. The separated aqueous layer was adjusted to pH 2.0 with conc. hydrochloric acid and extracted with ethyl acetate. The extracts were washed with a saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated. The residue was washed with diisopropyl ether and filtered to give 2-(2-propynyloxyimino)-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid (syn isomer)(5.96 g), mp 161°-162° C. (dec.).

reactant | chlorine | 3.2 g | ClCl | Cl2
reactant | 2-(2-propynyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 10 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H7N3O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 44 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-propynyloxyimino)-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid | 5.96 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1Cl)NC=O | C9H6ClN3O4S
